US07211601B2
(2S,4EZ)-4-(methoxyimino)-N1-(3-methoxyphenyl)-N2-(2-thienylmethyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 1-isocyanato-3-methoxybenzene, and 2-thienylmethylamine the title compound was obtained in 79% purity by LC/MS. MS(ESI+): m/z=403.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 1-isocyanato-3-methoxybenzene | N(=C=O)C1=CC(=CC=C1)OC | C8H7NO2
reactant | 2-thienylmethylamine | S1C(=CC=C1)CN | C5H7NS
product | (2S,4EZ)-4-(methoxyimino)-N1-(3-methoxyphenyl)-N2-(2-thienylmethyl)-1,2-pyrrolidinedicarboxamide | CON=C1C[C@H](N(C1)C(=O)NC1=CC(=CC=C1)OC)C(=O)NCC=1SC=CC1 | C19H22N4O4S
